US06930100B2
Step B. (S)-Phosphoric acid mono-[3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-ylmethyl] ester, bis-t-butyl ammonium salt; (S)-Ia
To a 100 mL flask containing phosphoric acid di-tert-butyl ester 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-ylmethyl ester ((S)-III) (0.500 g, 0.860 mmol) was added 10 mL anhydrous dichloromethane, and trifluoroacetic acid (0.196 g, 1.72 mmol). The reaction was allowed to stir at room temperature for 24 hours. The dichloromethane was evaporated in vacuo, and the crude foam was purified by reverse phase chromatography (C18 2:1CH3CN:H2O), then the isolated free phosphate was dissolved in ethyl acetate and t-butyl amine (0.251 g, 3.44 mmol) was added and the solvent was evaporated in vacuo producing the title compound (0.100 g, 19%) as a white powder. 1H NMR (D2O 500 MHz): δ=7.89 (s, 1H), 7.78 (s, 1H), 7.50 (m, 2H), 7.41 (d, 1H, J=6.4 Hz), 7.03 (d, 1H, J=6.4 Hz), 5.63 (dd, 1H, J=12.0, 6.8 Hz), 5.56 (dd, 1H, J=12.0, 6.8 Hz), 3.56 (s, 3H), 1.36 (s, 18H); 31P NMR (D2O 202 MHz) δ=1.68; LRMS [M−H]−467.9.

reactant | phosphoric acid di-tert-butyl ester 3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-ylmethyl ester | 0.860 mmol, 0.500 g | ClC=1C=CC(=C(C1)C1(C(N(C2=CC(=CC=C12)C(F)(F)F)COP(OC(C)(C)C)(OC(C)(C)C)=O)=O)F)OC | C25H29ClF4NO6P
reactant | trifluoroacetic acid | 1.72 mmol, 0.196 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl amine | 3.44 mmol, 0.251 g | C(C)(C)(C)N | C4H11N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-Phosphoric acid mono-[3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indol-1-ylmethyl] ester, bis-t-butyl ammonium salt | 0.100 g, 19% | C(C)(C)(C)[NH2+]C(C)(C)C.ClC=1C=CC(=C(C1)[C@@]1(C(N(C2=CC(=CC=C12)C(F)(F)F)COP([O-])([O-])=O)=O)F)OC.C(C)(C)(C)[NH2+]C(C)(C)C | InChI=1S/C17H13ClF4NO6P.2C8H19N/c1-28-14-5-3-10(18)7-12(14)16(19)11-4-2-9(17(20,21)22)6-13(11)23(15(16)24)8-29-30(25,26)27;2*1-7(2,3)9-8(4,5)6/h2-7H,8H2,1H3,(H2,25,26,27);2*9H,1-6H3/t16-;;/m0../s1
